US05055465
2-(4-Morpholinyl)methyl-1-(2-nitrophenyl)imidazole
Combine 10 g of 2-fluoronitrobenzene, 13 g of 2-((4-morpholinyl)methyl)-imidazole, 18 mL of N,N-diisopropyl ethylamine, and 150 mL of acetonitrile, and heat at reflux for 48 hr. Remove the solvent under vacuum, and dissolve the residue in 500 mL of 2N H2SO4. Wash the aqueous portion with 400 mL of ether, basify with K2CO3, and extract with two 400 mL portions of CH2Cl2. Combine extracts, dry over MgSO4, charcoal treat and remove the solvent under vacuum to provide the title compound.

reactant | 2-fluoronitrobenzene | 10 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 2-((4-morpholinyl)methyl)-imidazole | 13 g | N1(CCOCC1)CC=1NC=CN1 | C8H13N3O
reactant | N,N-diisopropyl ethylamine | 18 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | 2-(4-Morpholinyl)methyl-1-(2-nitrophenyl)imidazole | N1(CCOCC1)CC=1N(C=CN1)C1=C(C=CC=C1)[N+](=O)[O-] | C14H16N4O3
